US07846925B2
Step II: 3,4-Dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid methyl ester*hydrochloride
To a 2000 ml three-necked flask under N2 containing 3-Amino-4-hydroxy-benzoic acid methyl ester (31.35 g, 187 mmol) in anhydrous DMF (630 ml; 20 vols) at RT, was added K2CO3 (103 g, 4 eq.) in one portion followed by 1,2dibromoethane (65 ml, 4 eq.) in one portion. The reaction mixture was stirred at 70° C. for 12 h. Temperature was allowed to cool down to RT, and HCl1N was added until pH=8, and extraction was performed using diethyl ether (3*200 ml). The organic phase was washed with water (2*200 ml) and dried over MgSO4 and concentrated to afford a brown red oil with solid, which was taken up again in diethyl ether (450 ml) and THF (50 ml) and filtered to remove a white solid. To the filtrate was added HCl1N, and diethyl ether (130 ml) was added, suspension was stirred at RT for 5 minutes and filtered to give 27.6 g of crude product. The aqueous phases were again extracted with ethyl acetate to afford additional 6.23 g of product. The combined fractions (32 g) were recrystallised from EtOH (420 ml; 13 vols) to give after filtration and drying a white powder (19.47 g (16.37 g free base)), yield=40%.

reactant | 3-Amino-4-hydroxy-benzoic acid methyl ester | 187 mmol, 31.35 g | COC(C1=CC(=C(C=C1)O)N)=O | C8H9NO3
reactant | K2CO3 | 103 g, 4 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,2dibromoethane | 65 ml, 4 eq. | BrCCBr | C2H4Br2
solvent | DMF | 630 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | 450 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 3,4-Dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid methyl ester | 6.23 g, yield=40% | COC(=O)C=1C=CC2=C(NCCO2)C1 | C10H11NO3
